US07820821B2
A mixture of 4-ethynyl-2-nitro-phenylamine (1.306 g, 8.05 mmol), 6-iodo-1H-indazole (1.965 g, 8.05 mmol), dichlorobis(triphenylphosphine)palladium(II) (122 mg, 0.24 mmol) and copper(I) chloride (54.4 mg, 0.28 mmol) in THF (8 mL) and triethyl amine (8 mL) was stirred at room temperature overnight. Purification by column chromatography on silica gel gave 4-(1H-indazol-6-ylethynyl)-2-nitrophenylamine as red solid (777 mg, 2.79 mmol, yield 35%). LC-MS m/z: 279 (M+1)+.

reactant | 4-ethynyl-2-nitro-phenylamine | 8.05 mmol, 1.306 g | C(#C)C1=CC(=C(C=C1)N)[N+](=O)[O-] | C8H6N2O2
reactant | 6-iodo-1H-indazole | 8.05 mmol, 1.965 g | IC1=CC=C2C=NNC2=C1 | C7H5IN2
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | triethyl amine | 8 mL | C(C)N(CC)CC | C6H15N
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.24 mmol, 122 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) chloride | 0.28 mmol, 54.4 mg | [Cu]Cl
product | 4-(1H-indazol-6-ylethynyl)-2-nitrophenylamine | 2.79 mmol, 777 mg, yield 35% | N1N=CC2=CC=C(C=C12)C#CC1=CC(=C(C=C1)N)[N+](=O)[O-] | C15H10N4O2
